US07994203B2
Step 1: 1-(2-Methoxy-4-methyl-phenyl)-propan-1-ol:
To a stirring solution of 2-methoxy-4-methylbenzaldehyde (1 g, 6.66 mmol) in diethyl ether (35 ml) at 0° C. is added EtMgBr (2.220 ml, 6.66 mmol). The mixture is stirred for 2 hours and then added to sat ammonium chloride solution. The mixture is extracted with ethyl acetate and the combined organic portions are washed with NaHCO3, water and brine dried (MgSO4) and reducing under vacuum to yield the title product as a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.18 (d, 1H), 6.78 (d, 1H), 6.72 (s, 1H), 4.77 (t, 1H), 3.85 (s, 3H), 2.37 (s, 3H), 1.83 (m, 2H), 0.96 (t, 3H).

reactant | 2-methoxy-4-methylbenzaldehyde | 6.66 mmol, 1 g | COC1=C(C=O)C=CC(=C1)C | C9H10O2
reactant | EtMgBr | 6.66 mmol, 2.220 ml | CC[Mg+].[Br-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 35 ml | C(C)OCC | C4H10O
product | 1-(2-Methoxy-4-methyl-phenyl)-propan-1-ol | COC1=C(C=CC(=C1)C)C(CC)O | C11H16O2
